US09399637B2
Step 7) tert-butyl 5-((5-chloro-2-((2,3-dimethyl-2H-indazol-6-yl)amino)pyrimidin-4-yl)amino)hexahydrocyclopenta[c]pyrrole-2(1H)-carboxylate
To a suspension of tert-butyl 5-((2,5-dichloropyrimidin-4-yl)amino)hexahydrocyclopenta[c]pyrrole-2(1H)-carboxylate (621.8 mg, 1.666 mmol) and 2,3-dimethylindazol-6-amine hydrochloride (999.6 mg, 5.057 mmol) in n-BuOH (6 mL) was added DIPEA (1.10 g, 8.43 mmol). The reaction mixture was stirred at 150° C. under microwave for 2 h and concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/PE (v/v)=2/1) to give the title compound as a pale brown solid (452.1 mg, 54.5%).

reactant | tert-butyl 5-((2,5-dichloropyrimidin-4-yl)amino)hexahydrocyclopenta[c]pyrrole-2(1H)-carboxylate | 1.666 mmol, 621.8 mg | ClC1=NC=C(C(=N1)NC1CC2C(CN(C2)C(=O)OC(C)(C)C)C1)Cl | C16H22Cl2N4O2
reactant | 2,3-dimethylindazol-6-amine hydrochloride | 5.057 mmol, 999.6 mg | Cl.CN1N=C2C=C(C=CC2=C1C)N
reactant | DIPEA | 8.43 mmol, 1.10 g | CCN(C(C)C)C(C)C | C8H19N
solvent | n-BuOH | 6 mL | CCCCO | C4H10O
product | tert-butyl 5-((5-chloro-2-((2,3-dimethyl-2H-indazol-6-yl)amino)pyrimidin-4-yl)amino)hexahydrocyclopenta[c]pyrrole-2(1H)-carboxylate | 452.1 mg, 54.5% | ClC=1C(=NC(=NC1)NC=1C=CC2=C(N(N=C2C1)C)C)NC1CC2C(CN(C2)C(=O)OC(C)(C)C)C1 | C25H32ClN7O2
